US08017611B2
3-(1,3-benzoxazol-2-yl)-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyrazin-2-amine
37% Aqueous formaldehyde (0.049 ml) was added to a stirred solution 3-(1,3-benzoxazol-2-yl)-5-[1-(4-piperidyl)pyrazol-4-yl]pyrazin-2-amine (200 mg, 0.55 mmol) dissolved in methanol (2 ml) and DCM (2 ml) over a period of 5 minutes at 0° C. under an atmosphere of argon. The resulting solution was stirred at 0° C. for 5 minutes. Sodium triacetoxyborohydride (0.141 g) was added and the mixture was stirred for 5 minutes at ambient temperature. A solution of ammonia in methanol 7N (1 ml) was added and the mixture was adsorbed on silica gel. The crude product was purified by flash chromatography on silica gel (eluting with 1 to 5% methanolic ammonia (7 N) in dichloromethane). The solvent was evaporated to dryness and there was thus obtained 3-(1,3-benzoxazol-2-yl)-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyrazin-2-amine (0.165 g); Mass Spectrum: M+H+ 376; NMR Spectrum (DMSOd6): 8.67 (s, 1H), 8.36 (s, 1H), 8.03 (s, 1H), 7.90 (d, 1H), 7.88 (d, 1H), 7.84 (bs, 2H), 7.51 (dd, 1H), 7.47 (dd, 1H), 4.13-4.24 (m, 1H), 2.82-2.94 (m, 2H), 2.21 (s, 3H), 1.95-2.12 (m, 6H).

reactant | formaldehyde | 0.049 ml | C=O | CH2O
reactant | 3-(1,3-benzoxazol-2-yl)-5-[1-(4-piperidyl)pyrazol-4-yl]pyrazin-2-amine | 0.55 mmol, 200 mg | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(N2)C=2C=NN(C2)C2CCNCC2)N | C19H19N7O
reactant | Sodium triacetoxyborohydride | 0.141 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ammonia | N | H3N
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 7N, 1 ml | CO | CH4O
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 3-(1,3-benzoxazol-2-yl)-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyrazin-2-amine | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(N2)C=2C=NN(C2)C2CCN(CC2)C)N | C20H21N7O
